US06632826B1
A solution of 4-benzyl-5-(2-formyl-3-methoxycarbonyl-5-oxo-hexyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (13.5 g, 27 mmol) and para-toluenesulfonic acid monohydrate (660 mg, 2.7 mmol) in dry toluene (250 ml), was refluxed for 24 hours using a Dean-Stark apparatus to remove water formed during the reaction. The mixture was then cooled to room temperature and treated with and saturated aqueous sodium hydrogen carbonate solution (20 ml). After dilution with ethyl acetate and brine, the layers were separated and the aqueous layer extracted with ethyl acetate. The combined organic layers were washed with brine, dried (anhydrous magnesium sulfate) and concentrated in vacuo. Purification by flash chromatography on silica gel provided 4-benzyl-5-(6-methoxycarbonyl-4-oxo-cyclohex-2-enylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (5.64 g, 43%). Mass spectrum 458 [M+H]+.

reactant | 4-benzyl-5-(2-formyl-3-methoxycarbonyl-5-oxo-hexyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 27 mmol, 13.5 g | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC(C(CC(C)=O)C(=O)OC)C=O)(C)C | C26H37NO7
reactant | para-toluenesulfonic acid monohydrate | 2.7 mmol, 660 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4-benzyl-5-(6-methoxycarbonyl-4-oxo-cyclohex-2-enylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 5.64 g, 43% | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C=CC(CC1C(=O)OC)=O)(C)C | C26H35NO6
